US08669234B2
To a slurry of {2-Methyl-1-[2-(5-{6-[4-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester (0.045 g, 0.06 mmol) and (S)-methoxycarbonylamino-phenyl-acetic acid (0.02 g, 0.09 mmol, 1.5 equiv.) in CH2Cl2 (0.6 mL) was added HATU (0.03 g, 0.08, 1.25 equiv.) and K3PO4 (0.05 g, 0.22 mmol, 3 equiv.). The reaction mixture was stirred at room temperature for 18 hours and diluted with CH2Cl2. The salts were filtered and the filtrate was concentrated. The crude oil was purified by preparative HPLC (Gemini, 15→40% MeCN in H2O (0.1% formic acid)) and lyophilized to provide [1-(2-{5-[6-(4-{2-[1-(2S)-(2-Methoxycarbonylamino-2-phenyl-acetyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.03 g, 65%) as a white powder. LCMS-ESI+: calc'd for C47H50N8O6: 822.4 (M+). Found: 823.5 (M+H+). 1H-NMR: 400 MHz, (CDCl3) δ: (Mixture of rotomers) 7.64-8.03 (m, 9H), 7.20-7.40 (m, 6H), 7.17 (s, 2H), 6.14 (m, 1H), 5.53 (dd, 2H), 5.25-5.33 (m, 2H), 4.33 (t, 1H), 3.85 (m, 1H), 3.73 (m, 1H), 3.68 (s, 3H), 3.66 (s, 3H), 3.27 (m, 1H), 2.86-2.96 (m, 3H), 2.35 (m, 1H), 1.94-2.23 (m, 6H), 0.87-0.90 (m, 6H).

reactant | {2-Methyl-1-[2-(5-{6-[4-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester | 0.06 mmol, 0.045 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | C37H41N7O3
reactant | (S)-methoxycarbonylamino-phenyl-acetic acid | 0.09 mmol, 0.02 g, 1.5 equiv. | COC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C10H11NO4
reactant | HATU | 0.03 g, 1.25 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | K3PO4 | 0.22 mmol, 0.05 g, 3 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | CH2Cl2 | 0.6 mL | C(Cl)Cl | CH2Cl2
product | [1-(2-{5-[6-(4-{2-[1-(2S)-(2-Methoxycarbonylamino-2-phenyl-acetyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.03 g, 65% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)[C@H]1N(CCC1)C(C(C1=CC=CC=C1)NC(=O)OC)=O)=O | C47H50N8O6
